US05116841
4,5-dihydro-3-(3-methyl-5-isoxazolyl)-4-oxo-imidazo[1,5-a]quinoxaline
A stirred suspension of 5-tert-butyl-4,5-dihydro-3-(3methyl-5isoxazolyl)-4oxo-imidazo[1,5-a]quinoxaline (0.65 g) in a mixture of ethanol (10 ml) and 4 M hydrochloric acid (1 ml) was refluxed for 10 min. Then the mixture was cooled to room temperature and water (10 ml) was added. The precipitated product was collected by filtration and dried to give the title compound as a white solid, m.p. 393° C. (Compound 18).

reactant | 5-tert-butyl-4,5-dihydro-3-(3methyl-5isoxazolyl)-4oxo-imidazo[1,5-a]quinoxaline | 0.65 g | C(C)(C)(C)N1C(C=2N(C3=CC=CC=C13)C=NC2C2=CC(=NO2)C)=O | C18H18N4O2
reactant | water | 10 ml | O | H2O
solvent | ethanol | 10 ml | C(C)O | C2H6O
solvent | hydrochloric acid | 4 M, 1 ml | Cl | ClH
product | 4,5-dihydro-3-(3-methyl-5-isoxazolyl)-4-oxo-imidazo[1,5-a]quinoxaline | CC1=NOC(=C1)C=1N=CN2C1C(NC1=CC=CC=C21)=O | C14H10N4O2
